US07902226B2
1-benzyloxycarbonyl-3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine
3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine (1.70 g, 5.15 mmol) was dissolved in dichloromethane (34 ml), and benzylchloroformate (1.10 ml, 7.73 mmol) was added dropwise while stirring and cooling with ice. The reaction solution was then stirred at room temperature for 2.5 hours and then stirred at 40° C. for 1.5 hours. After letting the reaction solution cool, the reaction solution was concentrated under a reduced pressure, the concentrate was applied to a silica gel chromatography, and 1.40 g (75%) of the title compound was obtained in the form of a colorless syrup from an n-hexane:ethyl acetate=2:1 eluate. The instrumental analysis data for this resulting compound agreed with the data indicated in PCT/JP96/00208.

reactant | 3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine | 5.15 mmol, 1.70 g | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CN(CC1)[C@@H](C)C1=CC=CC=C1 | C20H30N2O2
reactant | benzylchloroformate | 7.73 mmol, 1.10 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 34 ml | ClCCl | CH2Cl2
product | 1-benzyloxycarbonyl-3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine | 1.40 g, 75% | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](CC1)C1(CC1)NC(=O)OC(C)(C)C | C20H28N2O4
